US04342775
3-(1-imidazolyl)-2,3-dihydro-7-bromo-4H-1-benzopyran-4-one was treated with a stoichiometric amount of hydrogen chloride, to give 3-(1-imidazolyl)-2,3-dihydro-7-bromo-4-H-1-benzopyran-4-one hydrochloride;

reactant | 3-(1-imidazolyl)-2,3-dihydro-7-bromo-4H-1-benzopyran-4-one | N1(C=NC=C1)C1COC2=C(C1=O)C=CC(=C2)Br | C12H9BrN2O2
reactant | hydrogen chloride | Cl | ClH
product | 3-(1-imidazolyl)-2,3-dihydro-7-bromo-4-H-1-benzopyran-4-one hydrochloride | Cl.N1(C=NC=C1)C1COC2=C(C1=O)C=CC(=C2)Br | InChI=1S/C12H9BrN2O2.ClH/c13-8-1-2-9-11(5-8)17-6-10(12(9)16)15-4-3-14-7-15;/h1-5,7,10H,6H2;1H
